US09357779B2
tert-Butyl 4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (IV-1)
Under argon and at −78° C., cyclohexylmethylmagnesium chloride 0.5M in diethyl ether (2.7 ml) was added dropwise to a solution of tert-butyl 4-{4-[methoxy(methyl)carbamoyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (480 mg) in tetrahydrofuran (5 ml). The reaction mixture was stirred at −78° C. for one hour. The reaction mixture was then stirred at room temperature for one hour. Saturated ammonium chloride solution was then added to the reaction mixture, and the aqueous phase was separated off. After extraction of the aqueous phase with ethyl acetate, the combined organic phases were dried over sodium sulphate and the solvent was removed under reduced pressure. This gave tert-butyl 4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (335 mg).

reactant | cyclohexylmethylmagnesium chloride | 0.5M | C1(CCCCC1)C[Mg]Cl
reactant | tert-butyl 4-{4-[methoxy(methyl)carbamoyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 480 mg | CON(C(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C16H25N3O4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 2.7 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | C1(CCCCC1)CC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H32N2O3S
